US07842685B2
A solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutylvinyl)-thiazolo[5,4-b]pyridine (167.1 mg, 0.421 mmol) in THF (8.0 mL) was added a solution of trimethylsulfoxonium iodide (557 mg, 2.53 mmol) and potassium 2-methylpropan-2-olate (284 mg, 2.53 mmol) in DMSO (4.80 mL) under argon, and the resulting solution was stirred at 60° C. for 2.5 h. The reaction mixture was then cooled to 25° C., THF was removed in vacuo, and the residual mixture was diluted with DCM (100 mL). The resulting solution was sequentially washed with sat. aq. NH4Cl (50 mL) and brine (20 mL). The combined aqueous layers were extracted with DCM (2×50 mL), and the combined organic layers were then dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-30% EtOAc/hexanes) furnished 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutyl-cyclopropyl)thiazolo[5,4-b]pyridine as a white solid. MS (ESI) m/z: Calculated: 410.1; Observed: 411.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutylvinyl)-thiazolo[5,4-b]pyridine | 0.421 mmol, 167.1 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CCC1)F | C22H21FN2O2S
reactant | trimethylsulfoxonium iodide | 2.53 mmol, 557 mg | [I-].C[S+](=O)(C)C
reactant | potassium 2-methylpropan-2-olate | 2.53 mmol, 284 mg | CC(C)(C)[O-].[K+]
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
solvent | DMSO | 4.80 mL | CS(=O)C | C2H6OS
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutyl-cyclopropyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1CCC1)F | C23H23FN2O2S
